Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3][H:4],2.10369495143
[C:7]([H:8])([H:9])[O:10][C:11][H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-3.59590563516
[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[C:5][H:6].[O:1]=[C:2]([H:3])[O:4],5.63364835048
[C:4]([H:6])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:5][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.83902346171
[H:1].[O:2][C@:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.68385689544
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10].[H:8],2.1583298016900003
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.1683179373
[C:5](#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],1.35833697032
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.4821421615400014
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8].[H:1],3.23741758268
[C:1]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[C:2]#[C:3]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-8.013520899860001
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11].[O:1]=[C:2]([H:3])[H:4],0.292843235699
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7],5.2998871
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[O:1][C:2]#[C:3][H:4],3.92995937972
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[C:7]([H:8])[O:9][H:10].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.99165799764
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7],6.1938456625
[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.7428266937300005
[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-1.0733672484
[H:10].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-2.4841033333
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:8]([H:9])=[C:10][H:11].[C:6][H:7],5.8793359816900015
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:10].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],2.03505115912
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2][O:3],3.51370051124
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.7728125484699992
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1],3.80798226685
[H:8].[O:1][C:2]#[C:3][C:4][C:5]([H:6])=[O:7]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])[O:7][H:8],-3.14163632274
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.391432689019999
[C:4](=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.581342704330001
[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.17330059951
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.556312039
[H:11].[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[O:12][H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.23287048976
